US07169761B2
Aluminum chloride (0.12 g) and anisole (4.0 ml) were added to a solution of (1S)-1,5-anhydro-1-[5-(azulen-2-ylmethyl)-2-(benzyloxy)phenyl]-2,3,4,6-tetra-O-benzyl-D-glucitol (0.07 g) in methylene chloride (5 ml) and the mixture was stirred at room temperature for two hours. The reaction mixture was poured into ice-cooled water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (chloroform-methanol) to obtain (1S)-1,5-anhydro-1-[5-(azulen-2-ylmethyl)-2-hydroxyphenyl]-D-glucitol (0.01 g).

reactant | Aluminum chloride | 0.12 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | anisole | 4.0 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | (1S)-1,5-anhydro-1-[5-(azulen-2-ylmethyl)-2-(benzyloxy)phenyl]-2,3,4,6-tetra-O-benzyl-D-glucitol | 0.07 g | C1=C(C=C2C=CC=CC=C12)CC=1C=CC(=C(C1)[C@H]1[C@H](OCC2=CC=CC=C2)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)OCC1=CC=CC=C1 | C58H54O6
reactant | water | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (1S)-1,5-anhydro-1-[5-(azulen-2-ylmethyl)-2-hydroxyphenyl]-D-glucitol | 0.01 g | C1=C(C=C2C=CC=CC=C12)CC=1C=CC(=C(C1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O | C23H24O6
